US07851493B2
2.73 g 4-Difluoromethyl-2-(4-methoxy-phenyl)-thiazole-5-carboxylic acid were dissolved in 30 ml tetrahydrofuran. 23 ml of a one molar solution of borane tetrahydrofuran complex were added and the reaction mixture stirred at 40° C. for three hours. The cooled reaction mixture was poured on ice water and extracted three times with portions of 100 ml ethyl acetate. The combined organic layers were dried over MgSO4. Then the solvent was removed in vacuo to obtain 2.70 g [4-difluoromethyl-2-(4-methoxy-phenyl)-thiazol-5-yl]-methanol.

reactant | 4-Difluoromethyl-2-(4-methoxy-phenyl)-thiazole-5-carboxylic acid | 2.73 g | FC(C=1N=C(SC1C(=O)O)C1=CC=C(C=C1)OC)F | C12H9F2NO3S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | [4-difluoromethyl-2-(4-methoxy-phenyl)-thiazol-5-yl]-methanol | 2.70 g | FC(C=1N=C(SC1CO)C1=CC=C(C=C1)OC)F | C12H11F2NO2S
